US06465467B1
Step 2: 3,4-Dihydro-2H-pyrido [3,2-b]-1,4-oxazin-2-ylmethanol.
A solution of 3,4-dihydro-3-oxo-2H-pyrido[3,2-b]-1,4-oxazin-2-carboxylic acid ethyl ester (1.10 g, 5.0 mmol) in THF (50 mL) was added over 5 min to a stirred mixture of LiAlH4 (0.38 g, 10 mmol) and THF (20 mL) at 40° C. The mixture was stirred at 45° C. for 30 min and at reflux for 4 h. The mixture was allowed to attain room temperature and excess LiAlH4 decomposed with 50% aqueous NaOH. The mixture was filtered through Celite, and the filtrate was concentrated. The residue (0.42 g) was extracted with CH2Cl2 and the extract was concentrated and purified by chromatography on silica gel (gradient: PhMe to PhMe/MeOH/Et3N, 8:1:1) to give the product as a white solid: yield 0.11 g (13%); mp 123-124° C. Anal. (C8H10N2O2) C, H, N.

reactant | 3,4-dihydro-3-oxo-2H-pyrido[3,2-b]-1,4-oxazin-2-carboxylic acid ethyl ester | 5.0 mmol, 1.10 g | C(C)OC(=O)C1C(NC2=C(O1)C=CC=N2)=O | C10H10N2O4
reactant | LiAlH4 | 10 mmol, 0.38 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,4-Dihydro-2H-pyrido [3,2-b]-1,4-oxazin-2-ylmethanol | O1C2=C(NCC1CO)N=CC=C2 | C8H10N2O2
